US08865703B2
AlCl3 (25.4 g, 190 mmol) is added batchwise to methyl furan-2-carboxylate (20.0 g, 159 mmol) and tert.-butylbromide (21.4 mL, 190 mmol) in CS2 (200 mL) while cooling with ice and the mixture is stirred for 6 h at RT. The reaction mixture is poured onto ice water, mixed with conc. hydrochloric acid (25 mL) and stirred for 10 min. Then the aqueous phase is extracted 2× with 200 mL EA. The combined organic phase is dried on Na2SO4, filtered and evaporated down using the rotary evaporator. The methyl 5-tert.-butyl-furan-2-carboxylate thus obtained is used further without any additional purification steps.

reactant | AlCl3 | 190 mmol, 25.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | methyl furan-2-carboxylate | 159 mmol, 20.0 g | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | tert.-butylbromide | 190 mmol, 21.4 mL | C(C)(C)(C)Br | C4H9Br
reactant | hydrochloric acid | 25 mL | Cl | ClH
solvent | CS2 | 200 mL | C(=S)=S | CS2
product | methyl 5-tert.-butyl-furan-2-carboxylate | C(C)(C)(C)C1=CC=C(O1)C(=O)OC | C10H14O3
